US06022884
2-Methyl-N-(6-(4-chloro-2-methyl-phenoxy)-pyridin-3-yl)-N-methyl-benzamide was prepared from 2-(4-Chloro-2-methyl-phenoxy)-5-(N-methylamino)pyridine and 2-methylbenzoyl chloride in the same manner as 2,6-Dichloro-N-(6-(4-chloro-2-methyl-phenoxy)-pyridin-3-yl)-N-methyl-benzamide was prepared.

reactant | 2-(4-Chloro-2-methyl-phenoxy)-5-(N-methylamino)pyridine | ClC1=CC(=C(OC2=NC=C(C=C2)NC)C=C1)C | C13H13ClN2O
reactant | 2-methylbenzoyl chloride | CC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO
reactant | 2,6-Dichloro-N-(6-(4-chloro-2-methyl-phenoxy)-pyridin-3-yl)-N-methyl-benzamide | ClC1=C(C(=O)N(C)C=2C=NC(=CC2)OC2=C(C=C(C=C2)Cl)C)C(=CC=C1)Cl | C20H15Cl3N2O2
product | 2-Methyl-N-(6-(4-chloro-2-methyl-phenoxy)-pyridin-3-yl)-N-methyl-benzamide | CC1=C(C(=O)N(C)C=2C=NC(=CC2)OC2=C(C=C(C=C2)Cl)C)C=CC=C1 | C21H19ClN2O2
